US07214756B2
A solution of 11.0 g of 1,7-octadiene (Wako Pure Chemical Industries) and 26.9 g of diethoxymethylsilane (Shin-etsu Silicones) dissolved in toluene was incorporated with 0.05 mmols of a solution of Karstedt catalyst (U.S. Pat. No. 3,775,452) prepared from a chloroplatinate (Wako Pure Chemical Industries) and divinyl tetramethyldisiloxane (Gelest, Inc.), and the resulting mixture was stirred at 30° C. in a nitrogen atmosphere for 24 hours. The reaction effluent was purified by distillation, to obtain 1,8-bis(diethoxymethylsilyl)octane. Its structure was confirmed by NMR analysis.

reactant | 1,7-octadiene | 11.0 g | C=CCCCCC=C | C8H14
reactant | diethoxymethylsilane | 26.9 g | C(C)OC(OCC)[SiH3] | C5H14O2Si
reactant | divinyl tetramethyldisiloxane | C(=C)[Si](O[Si](C)(C)C)(C)C=C | C8H18OSi2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,8-bis(diethoxymethylsilyl)octane | C(C)OC(OCC)[SiH2]CCCCCCCC[SiH2]C(OCC)OCC | C18H42O4Si2
